US07989454B2
4-(2-(2-Carboxy-ethyl)-3-{6-[3-(2-difluoromethoxy-benzylcarbamoyl)-5-thiophen-3-yl-phenoxy]-hexyl}-phenoxy)-butyric acid
The title compound was prepared by the same method as 4-{2-(2-carboxy-ethyl)-3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-phenoxy}-butyric acid starting from 4-[3-{6-[3-(2-difluoromethoxy-benzylcarbamoyl)-5-thiophen-3-yl-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (177 mg, 0.23 mmol) and 1.0 N aqueous NaOH (5 mL) in THF (5 mL) and EtOH (5 mL) to afford 4-(2-(2-carboxy-ethyl)-3-{6-[3-(2-difluoromethoxy-benzylcarbamoyl)-5-thiophen-3-yl-phenoxy]-hexyl}-phenoxy)-butyric acid (158 mg, 97%) as a dark brown solid.

reactant | 4-{2-(2-carboxy-ethyl)-3-[6-(5-dimethylcarbamoyl-3′,4′-difluoro-biphenyl-3-yloxy)-hexyl]-phenoxy}-butyric acid | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCCOC=1C=C(C=C(C1)C(N(C)C)=O)C1=CC(=C(C=C1)F)F | C34H39F2NO7
reactant | 4-[3-{6-[3-(2-difluoromethoxy-benzylcarbamoyl)-5-thiophen-3-yl-phenoxy]-hexyl}-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 0.23 mmol, 177 mg | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC1=CC(=CC(=C1)C1=CSC=C1)C(NCC1=C(C=CC=C1)OC(F)F)=O)CCC(=O)OCC)=O | C42H49F2NO8S
reactant | NaOH | 1.0 N, 5 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOH | 5 mL | CCO | C2H6O
product | 4-(2-(2-carboxy-ethyl)-3-{6-[3-(2-difluoromethoxy-benzylcarbamoyl)-5-thiophen-3-yl-phenoxy]-hexyl}-phenoxy)-butyric acid | 158 mg, 97% | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCCOC1=CC(=CC(=C1)C1=CSC=C1)C(NCC1=C(C=CC=C1)OC(F)F)=O | C38H41F2NO8S
